US07173136B2
3-Cyano-6,7-dimethoxy-4-[4-(2-methoxycarbonylvinyl)benzofuran-7-ylamino]quinoline
The 3-cyano-6,7-dimethoxy-4-(4-iodobenzofuran-7-ylamino)quinoline (0.275 g) was suspended in N,N-dimethylformamide (15 ml) in a nitrogen-flushed vessel, then palladium (II) acetate (16 mg) was added, followed by methyl acrylate (1.1 ml) and triethylamine (0.6 ml). The reaction was heated to 115° C. for 5 hours before filtration and evaporation of solvents under reduced pressure. The residue was purified by column chromatography on silica using increasingly polar mixtures of iso-hexane with ethyl acetate as eluent The resulting product was triturated with diethyl ether and filtered. There was thus obtained the title compound (0.203 g), as a yellow solid; NMR Spectrum: (DMSOd6) 3.77 (s, 3H), 3.94 (s, 3H), 3.99 (s, 3H), 6.73 (d, 1H), 7.31 (d, 1H), 7.40(s, 1H), 7.47 (d, 1H), 7.76 (d, 1H), 7.86 (s, 1H), 7.97 (d, 1H), 8.08 (d, 1H), 8.56 (s, 1H), 10.02 (br s, 1H); Mass Spectrum: M+H+ 430.

reactant | 3-cyano-6,7-dimethoxy-4-(4-iodobenzofuran-7-ylamino)quinoline | 0.275 g | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=CC=C(C=2C=COC21)I)OC)OC | C20H14IN3O3
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-Cyano-6,7-dimethoxy-4-[4-(2-methoxycarbonylvinyl)benzofuran-7-ylamino]quinoline | 0.203 g | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=CC=C(C=2C=COC21)C=CC(=O)OC)OC)OC | C24H19N3O5
